US04110079
Phosphotungstic acid reagent was prepared by refluxing a solution of 4 g sodium tungstate in 30 ml of H2O with 3.2 ml of 85% by weight orthophosphoric acid for 2 hours. The solution was then cooled to room temperature and diluted to 100 cc. Then 3.2 g of Li2SO4.H2O was added and mixed well. This liquid reagent material was incorporated into pods prepared as described in Example 1.

reactant | sodium tungstate | 4 g | [O-][W](=O)(=O)[O-].[Na+].[Na+]
reactant | orthophosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | H2O | 30 ml | O | H2O
product | Phosphotungstic acid | O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.P.[W].[W].[W].[W].[W].[W].[W].[W].[W].[W].[W].[W] | InChI=1S/40H2O.H3P.12W/h40*1H2;1H3;;;;;;;;;;;;
